### PR TITLE
added finite

### PR DESCRIPTION
**Pull request by AnvitAggarwal**
Created a PR

### CODE REVIEW

**Comment by satiscugcat** [comment]
Cool! Btw, when you create a PR, also do request a review, that way I'll just be notified via GitHub.

File: AlgCh0/ch1.lean [hunk 1]
```diff
@@ -62,4 +62,9 @@ example : (7, 7) ∈ CartesianProduct greater_than_5 greater_than_6 := by
   rw [greater_than_6]
   simp
 
+def finite (S : Set α) : Prop :=
+  ∃ (n : ℕ) (f : {x : α // x ∈ S} → ℕ), Function.Injective f ∧ ∀ x, f x < n
```
Comment (satiscugcat) [inline AlgCh0/ch1.lean:66]: Hmm, this is an interesting formalisation, and I guess it makes sense. I guess it also only works because the natural numbers have a minimal element.

**Review by satiscugcat — APPROVED** [review]
Looks good!
